US05233031
4-(2-Hydroxyethyl)-2,2-dimethyl-1,3-dioxolane
Butane-1,2,4-triol (5.0 g, 47 mmol) was dissolved in MeOH (5 ml). Acetone (20 ml), MgSO4 (ca. 500 mg), and para-toluene sulfonic acid (p-TsOH) (catalytic amount) were added, and the mixture was allowed to stir for 5 days at room temperature. The mixture was filtered and the filtrate concentrated under reduced pressure. Methylene chloride (CH2Cl2) (20 ml) and water (20 ml) were added, the layers were separated, and the organic layer was washed with water (2×20 ml). The organic layer was dried (MgSO4), filtered, and the filtrate concentrated under reduced pressure to afford the product as a clear oil (5.15 g, 75%): 1H NMR (CDCl3) 4.23(dt, 1H, J=6.86 Hz), 4.04(t, 1H, J=6.06 Hz), 3.72(m, 2H), 3.54(t, 1H, J=7.72 Hz), 2.55(broad s, 1H), 1.77(dt, 2H, J=6.67 Hz), 1.34(d, 6H, J=15.68 Hz)ppm; IR (neat) 3420, 2980, 2930, 2870, 1710, 1455, 1370, 1250, 1215, 1155, 1055, 855, 732 cm-1.

reactant | Butane-1,2,4-triol | 47 mmol, 5.0 g | C(C(CCO)O)O | C4H10O3
reactant | Acetone | 20 ml | CC(=O)C | C3H6O
reactant | MgSO4 | ca. 500 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | para-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(2-Hydroxyethyl)-2,2-dimethyl-1,3-dioxolane | 5.15 g, 75% | OCCC1OC(OC1)(C)C | C7H14O3
